US07169737B2
In a 200 ml four-necked flask equipped with a stirrer and a thermometer, 1.34 g (10.6 mmol) of 4-mercaptophenol, 0.7 g (10.6 mmol) of potassium hydroxide and 50 ml of methanol were added at room temperature. After confirming that potassium hydroxide has been dissolved, the inner temperature was cooled to 10° C. and 2.6 g (10.6 mmol) of 4-chloromethyl-N-phenylbenzamide was added, followed by stirring at room temperature for 3 hours. After the completion of the reaction, the reaction solution was acidified with hydrochloric acid and 50 ml of water was added, and then the deposited crystal was collected by filtration to obtain 3.0 g of 4-(4-hydroxyphenylthiomethyl)-N-phenylbenzamide. The yield was 84%. The melting point was 220–222° C.

reactant | 4-mercaptophenol | 10.6 mmol, 1.34 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | potassium hydroxide | 10.6 mmol, 0.7 g | [OH-].[K+]
reactant | 4-chloromethyl-N-phenylbenzamide | 10.6 mmol, 2.6 g | ClCC1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C14H12ClNO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-(4-hydroxyphenylthiomethyl)-N-phenylbenzamide | 3.0 g, yield was 84% | OC1=CC=C(C=C1)SCC1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C20H17NO2S
